US04028344
Preparation of N-[1-(t-Butylazo)cyclohexyl]thiourea
To a solution of 7.4 grams (0.032 moles) of 1-t-butylazo-1-isothiocyanatocyclohexane in 80 ml of methanol in a 250 ml reaction flask equipped with magnetic stirrer, thermometer, dry-ice condenser and gas addition tube was added NH3 gas until an NH3 reflux was obtained in the condenser. The reaction mixture was stirred for 3 hours at room temperature while maintaining a gentle NH3 reflux in the dry ice condenser. The reaction mixture was then poured into 200 ml of water and the product extracted with methylene chloride. The methylene chloride extract was washed with 10% NaHCO3 solution, water, dried over anhydrous sodium sulfate, filtered and the methylene chloride evaporated under reduced pressure. The residue was slurried in pentane and the slurry filtered. The white solid filter cake was air dried and weighed 4.5 grams (57% crude yield). The product melted at 155°-157° C. with decomposition. The infrared spectrum of the product contained a strong band at 1525 cm-1 and 3 NH bands at 3180, 3250 and 3400 cm-1.

reactant | 1-t-butylazo-1-isothiocyanatocyclohexane | 0.032 moles, 7.4 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=S | C11H19N3S
reactant | NH3 | N | H3N
reactant | dry ice | C(=O)=O | CO2
reactant | water | 200 ml | O | H2O
solvent | methanol | 80 ml | CO | CH4O
product | N-[1-(t-Butylazo)cyclohexyl]thiourea | C(C)(C)(C)N=NC1(CCCCC1)NC(=S)N | C11H22N4S
